US05843975
13.1. (R)-5-Methoxymethyl-3-(6-formyl-1,2-benzisoxazol-3-yl)oxazolidin-2-one
A stream of ozone at -40° C. is passed for 2 hours into a solution of 8.0 g (0.029 mol) of (R)-5-(methoxymethyl)-3-(6-ethenyl-1,2-benzisoxazol-3-yl)oxazolidin-2-one in 210 ml of dichloromethane, then the ozone is driven off with a stream of argon, and 10.7 ml (0.15 mol) of dimethyl sulphide are added. The mixture is stirred for 3 hours while allowing the temperature to return to ambient temperature, and then the solvent is evaporated off under reduced pressure. By chromatography of the residue on a silica column with a mixture of 30% ethyl acetate in cyclohexane, 5.0 g of product are obtained.

reactant | ozone | O=[O+][O-] | O3
reactant | (R)-5-(methoxymethyl)-3-(6-ethenyl-1,2-benzisoxazol-3-yl)oxazolidin-2-one | 0.029 mol, 8.0 g | COC[C@H]1CN(C(O1)=O)C1=NOC2=C1C=CC(=C2)C=C | C14H14N2O4
reactant | dimethyl sulphide | 0.15 mol, 10.7 ml | CSC | C2H6S
solvent | dichloromethane | 210 ml | ClCCl | CH2Cl2
product | (R)-5-Methoxymethyl-3-(6-formyl-1,2-benzisoxazol-3-yl)oxazolidin-2-one | COC[C@H]1CN(C(O1)=O)C1=NOC2=C1C=CC(=C2)C=O | C13H12N2O5
